US09232792B2
A mixture of 800 mg of methyl 7-(trifluoromethyl)benzo[b]thiophene-2-carboxylate, 154 mg of lithium hydroxide monohydrate, 4 ml of water and 12 ml of methanol was stirred at 75° C. for 2 hours. The reaction mixture was cooled to room temperature, and then concentrated under reduced pressure. To the residue was added water, and then washed with tert-butyl methyl ether 3 times. To the aqueous layer was added concentrated hydrochloric acid, and then extracted with tert-butyl methyl ether 3 times. The combined organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and then concentrated under reduced pressure to obtain 632 mg of 7-(trifluoromethyl)benzo[b]thiophene-2-carboxylic acid (the present compound 4).

reactant | methyl 7-(trifluoromethyl)benzo[b]thiophene-2-carboxylate | 800 mg | FC(C1=CC=CC2=C1SC(=C2)C(=O)OC)(F)F | C11H7F3O2S
reactant | lithium hydroxide monohydrate | 154 mg | O.[OH-].[Li+]
reactant | water | 4 ml | O | H2O
solvent | methanol | 12 ml | CO | CH4O
product | 7-(trifluoromethyl)benzo[b]thiophene-2-carboxylic acid | 632 mg | FC(C1=CC=CC2=C1SC(=C2)C(=O)O)(F)F | C10H5F3O2S
